US07368578B2
To a mixture of (4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-2-methoxyphenyl)methanol (1.04 g), tributylphosphine (1.34 g), ethyl 1-benzyl-3-hydroxy-1H-pyrazole-4-carboxylate (0.81 g) and tetrahydrofuran (100 mL) was added 1,1′-(azodicarbonyl)dipiperidine (1.67 g) at room temperature, and the mixture was stirred for 15 hrs. The precipitated crystals were removed by filtration and the filtrate was concentrated. The residue was subjected to silica gel column chromatography to give ethyl 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-2-methoxybenzyl)oxy]-1H-pyrazole-4-carboxylate as crystals (0.41 g, yield 23%) from a fraction eluted with tetrahydrofuran-hexane (1:2, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 137-138° C.

reactant | (4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-2-methoxyphenyl)methanol | 1.04 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC(=C(C=C1)CO)OC)C | C17H17NO5
reactant | tributylphosphine | 1.34 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | ethyl 1-benzyl-3-hydroxy-1H-pyrazole-4-carboxylate | 0.81 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)OCC)O | C13H14N2O3
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.67 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | ethyl 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-2-methoxybenzyl)oxy]-1H-pyrazole-4-carboxylate | 0.41 g, yield 23% | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)OCC)OCC1=C(C=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OC | C30H29N3O7
